US06583139B1
Synthesis of N-(Toluene-4-sulfonyl)-L-prolyl-L-alanine
N-(Toluene-4-sulfonyl)-L-proline hydrate was coupled to L-alanine methyl ester hydrochloride using the procedure described in Method 3. The resulting methyl ester was deesterified via hydrolysis using LiOH in THF/water to provide the title compound as a solid, mp=160.5-162.5° C.

reactant | N-(Toluene-4-sulfonyl)-L-proline hydrate | O.C1(=CC=C(C=C1)S(=O)(=O)N1[C@H](C(=O)O)CCC1)C
reactant | L-alanine methyl ester hydrochloride | Cl.COC([C@@H](N)C)=O
reactant | LiOH | [Li+].[OH-]
solvent | THF water | C1CCOC1.O
product | N-(Toluene-4-sulfonyl)-L-prolyl-L-alanine | C1(=CC=C(C=C1)S(=O)(=O)N1[C@H](C(=O)N[C@@H](C)C(=O)O)CCC1)C | C15H20N2O5S
